US05574042
To a solution of 2,4-dichloro-1-isopropoxybenzene (3.53 g) in tetrahydrofuran (35 ml) was added n-butyl lithium solution (1.6 Mol solution in n-hexane, 11 ml) through a syringe at -78° C. After stirring for one hour at -78° C., the mixture was poured into dry diethyl ether (50 ml) containing pulverized dry ice in a few minutes. After warming to ambient temperature, the mixture was concentrated in vacuo. The residue was partitioned between diethyl ether (50 ml) and aqueous 10% sodium hydroxide solution (100 ml). The aqueous layer was adjusted to pH 2 with 10% hydrochloric acid. The separated oil was extracted with dichloromethane. The extract was washed with water, dried, and evaporated under reduced pressure. The residue was crystallized from n-hexane to give 2,6-dichloro-3-isopropoxybenzoic acid (3.0 g).

reactant | 2,4-dichloro-1-isopropoxybenzene | 3.53 g | ClC1=C(C=CC(=C1)Cl)OC(C)C | C9H10Cl2O
reactant | n-butyl lithium | 1.6 Mol, 11 ml | C(CCC)[Li]
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 2,6-dichloro-3-isopropoxybenzoic acid | 3.0 g | ClC1=C(C(=O)O)C(=CC=C1OC(C)C)Cl | C10H10Cl2O3
